US07652015B2
Add trifluoroacetic acid (150 mL) to a cold solution of 4-(3-methyl-5-nitro-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester (10.12 g, 30 mmol) in dichloromethane (450 mL). Stir the reaction mixture at 22° C. for 60 min. After removal of solvent, treat the residue with 1 N sodium hydroxide (150 mL) and extract with dichloromethane and ethyl acetate. Dry the combined organic phases over sodium sulfate. Removal of solvent provides 3-methyl-5-nitro-2-(piperidin-4-yloxy)-pyridine as a yellow solid (6.9 g, 97% yield). MS(ES): m/z=238.2 [M+H].

reactant | trifluoroacetic acid | 150 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(3-methyl-5-nitro-pyridin-2-yloxy)-piperidine-1-carboxylic acid tert-butyl ester | 30 mmol, 10.12 g | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=NC=C(C=C1C)[N+](=O)[O-] | C16H23N3O5
solvent | dichloromethane | 450 mL | ClCCl | CH2Cl2
product | 3-methyl-5-nitro-2-(piperidin-4-yloxy)-pyridine | 6.9 g, 97% yield | CC=1C(=NC=C(C1)[N+](=O)[O-])OC1CCNCC1 | C11H15N3O3
